US08106043B2
tert-Butyl 4-(2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate:
To a stirred solution of triphenylphosphine (1.178 g, 4.49 mmol) and imidazole (0.611 g, 8.98 mmol) in tetrahydrofuran (10 mL) at 0° C. was added iodine (1.292 g, 5.09 mmol). The resulting dark mixture was stirred at 0° C. After 5 minutes, tert-butyl 4-(2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate (1.19 g, 2.99 mmol) was added as a solution in tetrahydrofuran (5 mL). The mixture was then warmed to room temperature and stirred for 1 hour. The mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate, saturated sodium thiosulfate, water, and brine. The organic phase was dried, filtered, concentrated, and then chromatographed in 1:2 ethyl acetate:hexanes, giving the desired product (1.50 g, 99%) as an orange foam. 1H NMR (DMSO-d6) δ 7.59-7.54 (m, 1H), 7.45-7.38 (m, 2H), 5.45-5.37 (m, 1H), 3.98-3.85 (m, 2H), 3.73-3.61 (m, 1H), 3.35-3.27 (m, 5H), 3.19-3.03 (m, 1H), 3.02-2.82 (m, 2H), 1.92-1.84 (m, 2H), 1.45-1.34 (m, 11H); ESI-MS (m/z, %): 530 (M+Na, 6), 452 (25), 279 (100).

reactant | triphenylphosphine | 4.49 mmol, 1.178 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 8.98 mmol, 0.611 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 5.09 mmol, 1.292 g | II | I2
reactant | tert-butyl 4-(2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 2.99 mmol, 1.19 g | OCCSC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O5S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 1.50 g, 99% | ICCSC1=C(C=C(C=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C18H26IN3O4S
